US05888940
2-Amino-4,6-dichlorobenzothiazole
197 g (1.23 mol) of bromine were slowly added dropwise, while cooling with ice, to a solution of 200 g (1.23 mol) of 2,4-dichloroaniline and 200 g (2.46 mol) of sodium thiocyanate in 1.5 1 of glacial acetic acid. Stirring was carried out for 16 hours at about 20° C., after which the solid was separated off and washed with 10% strength sodium hydroxide solution and water.

reactant | bromine | 1.23 mol, 197 g | BrBr | Br2
reactant | 2,4-dichloroaniline | 1.23 mol, 200 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | sodium thiocyanate | 2.46 mol, 200 g | [S-]C#N.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-Amino-4,6-dichlorobenzothiazole | NC=1SC2=C(N1)C(=CC(=C2)Cl)Cl | C7H4Cl2N2S
